US07915271B2
Palladium(II) acetate (0.109 g, 0.486 mmol), DPPF (0.269 g, 0.486 mmol), K2CO3 (2.013 g, 14.57 mmol) and Et3N (0.677 mL, 4.86 mmol) were added to a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (2.9 g, 4.86 mmol) in MeCN (30 mL) and MeOH (10 mL). The reaction mixture was purged with N2, the flask was capped and a CO balloon was attached to it. After bubbling CO gas into the solution through a needle attached to the balloon for 5 min, the mixture was heated under a CO balloon at 70° C. overnight. The mixture was diluted with EtOAc (300 mL), filtered through the Celite, then washed with water (3×50 mL), brine (1×), dried (Na2SO4), filtered and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel to give methyl 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzoate. LCMS calc.=530.1; found=529.9 (M+1)+. 1H NMR (500 MHz, CDCl3) L 8.09 (d, J=8.1 Hz, 1H); 7.92 (s, 1H); 7.82 (s, 2H); 7.79 (s, 1H); 7.69 (d, J=8.1 Hz, 1H); 5.75 (d, J=7.8 Hz, 1H); 5.10 (d, J=16.2 Hz, 1H); 4.81 (d, J=16.2 Hz, 1H); 4.19-4.11 (m, 1H); 3.99 (s, 3H); 0.81 (d, J=6.5 Hz, 3H).

reactant | K2CO3 | 14.57 mmol, 2.013 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Et3N | 4.86 mmol, 0.677 mL | CCN(CC)CC | C6H15N
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 4.86 mmol, 2.9 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
solvent | MeCN | 30 mL | CC#N | C2H3N
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Palladium(II) acetate | 0.486 mmol, 0.109 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | DPPF | 0.486 mmol, 0.269 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | methyl 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzoate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C(=O)OC)C=CC(=C1)C(F)(F)F)C)(F)F | C22H16F9NO4
